US06514971B1
The starting material, 7-benzyloxy-4-chloro-6-methoxycinnoline hydrochloride, was obtained by heating a solution of 7-benzyloxy-4-hydroxy-6-methoxycinnoline (11 g, 39 mmol) in thionyl chloride (180 ml) containing DMF (1 ml) at reflux for 1 hour. After cooling, excess thionyl chloride was removed by evaporation and azeotroped with toluene. The residue was triturated with ether, filtered off, washed with ether and dried under vacuum to give 7-benzyloxy-4-chloro-6-methoxycinnoline hydrochloride as a cream solid (13.6 g, quantitative).

reactant | 7-benzyloxy-4-hydroxy-6-methoxycinnoline | 39 mmol, 11 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN=NC2=C1)O)OC | C16H14N2O3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 180 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-benzyloxy-4-chloro-6-methoxycinnoline hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CN=NC2=C1)Cl)OC | InChI=1S/C16H13ClN2O2.ClH/c1-20-15-7-12-13(17)9-18-19-14(12)8-16(15)21-10-11-5-3-2-4-6-11;/h2-9H,10H2,1H3;1H
